US04543207
These compounds can be prepared through various chemical synthesis methods. For example, phenyl(vinylphenyl)ethane is prepared by reacting diphenylethane with acetyl chloride in the presence of Friedel-Crafts catalyst to obtain phenyl(acetylphenyl)ethane, then it is reduced with sodium borohydride and dehydrated. Phenyl(isopropenylphenyl)ethane is prepared by reacting phenyl(formylpheny)ethane with a Grignard reagent such as methylmagnesium iodide, which is followed by dehydration.

reactant | phenyl(vinylphenyl)ethane | C1(=CC=CC=C1)C(C)C1=C(C=CC=C1)C=C | C16H16
reactant | diphenylethane | C1(=CC=CC=C1)C(C)C1=CC=CC=C1 | C14H14
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | phenyl(acetylphenyl)ethane | C1(=CC=CC=C1)C(C)C1=C(C=CC=C1)C(C)=O | C16H16O
